US07910613B2
73: N-[5-(5-Methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-propionamide
Prepared from 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine and propionyl chloride.

reactant | 5-(5-methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-ylamine | CC1=NC(=NO1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H10N4OS
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | N-[5-(5-Methyl-[1,2,4]oxadiazol-3-yl)-4-phenyl-thiazol-2-yl]-propionamide | CC1=NC(=NO1)C1=C(N=C(S1)NC(CC)=O)C1=CC=CC=C1 | C15H14N4O2S
